US06103902
6.2 g of sodium hydroxide were added to 15 g (26 mmol) of 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amid and 75 ml of ethylene glycol. The mixture was heated to 85° C. for 5 hr. Then 55 ml of de-ionized water were added and thereafter 55 ml of 3 N hydrochloric acid were added dropwise. The mixture was allowed to cool down to 20° C. and was stirred for 1 hr. The solid was filtered off and dried at 70° C., 2000 Pa for 18 hr. There were obtained 16.2 g (103%) of 5-isopropyl-pyridine-2-sulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amide with a HPLC purity of 92% (w/w). 80 ml of dioxane and 80 ml of ethanol were added to this solid. At a temperature of 60° C., gaseous ammonia was introduced into the liquid until pH=9 to 10. The resulting suspension was allowed to cool down to 20° C. and was stirred at 20° C. for 20 hr and thereafter at 0° C. for 2.5 hr. Then the solid was filtered off and dried at 70° C., 2000 Pa for 18 hr. There were obtained 14.2 g of mono ammonium salt with a HPLC purity of 96.2% (w/w). The solid was heated (reflux) in 70 ml of methanol, cooled down slowly to 20° C. and stirred at 20° C. for 19 hr and thereafter at 0° C. for 2 hr. Then the solid was filtered off and dried at 70° C., 2000 Pa for 19 hr. There were obtained 11.5 g (66% of theory) of 5-isopropyl-pyridine-2-sulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amide sodium salt (1:2) with a HPLC purity of 98.6% (w/w).

reactant | sodium hydroxide | 6.2 g | [OH-].[Na+]
reactant | 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amid | 26 mmol, 15 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C1=NN=NN1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C25H22ClN9O4S
reactant | ethylene glycol | 75 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | 3 N, 55 ml | Cl | ClH
solvent | water | 55 ml | O | H2O
product | 5-isopropyl-pyridine-2-sulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amide | 16.2 g, 103% | OCCOC1=C(C(=NC(=N1)C1=CC(=NC=C1)C1=NN=NN1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C27H27N9O6S
